US06566358B2
6-(3-Chloro-phenyl)4,4-dicyclopropyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one
The title compound was prepared according to Example 41 from (4-amino-3′-chloro-biphenyl-3-yl)-dicylopropyl-methanol and 1,1′-carbonyldiimidazole. Yellow solid: mp 198-200° C.; 1H-NMR (DMSO-d6) δ10.3 (s, 1H), 7.72 (bs, 1H), 7.67 (bs, 1H), 7.62 (m, 2H), 7.48 (t, 1H, J=7.88 Hz), 7.40 (d, 1H, J=8.04 Hz), 6.94 (d, 1H, J=8.27 Hz), 1.55 (m, 2H), 0.5 (m, 6H), 0.28 (m, 2H); MS (EI) m/z 339 (M+, 40%); Anal. Calc. For C20H18ClNO2: C, 70.69; H, 5.34 N, 4.12. Found: C, 69.38; H, 5.07; N, 4.02.

reactant | (4-amino-3′-chloro-biphenyl-3-yl)-dicylopropyl-methanol | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(O)(C1CC1)C1CC1 | C19H20ClNO
reactant | 1,1′-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 6-(3-Chloro-phenyl)4,4-dicyclopropyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C2CC2)C2CC2)=O)C=C1 | C20H18ClNO2
